US07842707B2
A cooled (−67° C.) solution of dry diisopropylamine (3.65 mL, 26 mmol) in anhydrous THF (20 mL) under nitrogen was treated via syringe with 2.5N n-butyllithium/hexane (9.6 mL, 24 mmol), warmed to 0° C. for 5 min, then recooled (−67° C.). DMPU (12.1 mL, 100 mmol) was added dropwise via addition funnel so as to keep pot temp <−60° C., then a solution of dimethyl cyclohexane-1,3-dicarboxylate (4.00 g, 20 mmol) in anhydrous THF (10 mL) was likewise added dropwise. After 1 h at −67° C., diiodomethane (7.23 g, 27 mmol) in THF (10 mL) was added dropwise, then the mixture was warmed to room temperature over 1 h stirred 1 h, cooled on an ice bath, and quenched with saturated aqueous ammonium chloride (20 mL). The organic solvents were removed in vacuo and water (30 mL) was added, and the aqueous was extracted with hexane (100 mL, then 2×50 mL). The combined organic extracts were washed with water (75 mL), dried (MgSO4), and concentrated in vacuo, then dissolved in methylene chloride and passed through a pad of alumina in a fritted (30 mL) funnel. The concentrated filtrate was chromatographed on silica gel (˜200 cc, eluted with 1:1 hexane/methylene chloride) to afford 4.65 g (68%) of 1-iodomethyl-1,3-dicarbomethoxycyclohexane as a colorless oil.

reactant | diisopropylamine | 26 mmol, 3.65 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 24 mmol, 2.5N, 9.6 mL | C(CCC)[Li].CCCCCC
reactant | DMPU | 100 mmol, 12.1 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | dimethyl cyclohexane-1,3-dicarboxylate | 20 mmol, 4.00 g | C1(CC(CCC1)C(=O)OC)C(=O)OC | C10H16O4
reactant | diiodomethane | 27 mmol, 7.23 g | ICI | CH2I2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-iodomethyl-1,3-dicarbomethoxycyclohexane | 4.65 g, 68% | ICC1(CC(CCC1)C(=O)OC)C(=O)OC | C11H17IO4
